US08729068B2
A mixture of 250 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 125 mg of tert-butyl 3-(methylamino)propanoate, and 2.5 mL of dichloromethane was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 209 mg of methyl 4-{2-[4-({[2-({3-[(3-tert-butoxy-3-oxopropyl)(methyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a pale yellow formed solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | tert-butyl 3-(methylamino)propanoate | 125 mg | CNCCC(=O)OC(C)(C)C | C8H17NO2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | methyl 4-{2-[4-({[2-({3-[(3-tert-butoxy-3-oxopropyl)(methyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 209 mg | C(C)(C)(C)OC(CCN(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C)=O | C40H45N3O8S2
